US08003651B2
tert-Butyl 4-((5R,7S)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.725 g, 2.155 mmol) was dissolved in dioxane (5 mL) and cooled to 0° C. A solution of HCl in dioxane (13.47 mL, 53.88 mmol; 4M) was added dropwise. The reaction mixture was allowed to warm to ambient temperature and stirred for 16 hours. A white precipitate had formed after about 8 hours. The reaction mixture was concentrated in vacuo, re-suspended in MeOH, and re-concentrated (3×). The residue was dissolved in MeOH (about 2 to 3 mL) and added dropwise to a rapidly stirring flask containing ether (80 mL). The white solid was filtered under a blanket of nitrogen gas and dried under nitrogen gas to give (5R,7S)-7-fluoro-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride a white solid (555 mg, 83%). LCMS (ESI+) m/z 237.2 [M+H]+;Rf: 1.70 min.

reactant | tert-Butyl 4-((5R,7S)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 2.155 mmol, 0.725 g | F[C@H]1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C17H25FN4O2
reactant | HCl | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 53.88 mmol, 4M, 13.47 mL | O1CCOCC1 | C4H8O2
product | (5R,7S)-7-fluoro-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | Cl.Cl.F[C@H]1C[C@H](C2=C1N=CN=C2N2CCNCC2)C | InChI=1S/C12H17FN4.2ClH/c1-8-6-9(13)11-10(8)12(16-7-15-11)17-4-2-14-3-5-17;;/h7-9,14H,2-6H2,1H3;2*1H/t8-,9+;;/m1../s1
